US06211199B1
16.2 Synthesis of ethyl 4-cyano-4-(3,4-dichlorophenyl)-6-(t-butyldimethylsilyloxy)hexanoate
Combine 2-(3,4-dichlorophenyl)-4-(t-butyldimethylsilyloxy)butyronitrile (13.35 g, 38.8 mmol) and anhydrous tetrahydrofuran (50 mL). Cool in a dry-ice/acetone bath. Add dropwise a solution of lithium bis(trimethylsilyl)amide (42.6 mL, 1 M in THF, 42.6 mmol). Add dropwise, ethyl 3-bromopropionate (7.71 g, 42.6 mmol). Warm the reaction mixture to ambient temperature. After 18 hours, add water. Separate the aqueous layer and extract three times with ethyl acetate. Combine the organic layers, dry over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 90% ethyl acetate/hexane to give the title compound: Rf=0.35 (silica gel, 10% ethyl acetate/hexane).

reactant | 2-(3,4-dichlorophenyl)-4-(t-butyldimethylsilyloxy)butyronitrile | 38.8 mmol, 13.35 g | ClC=1C=C(C=CC1Cl)C(C#N)CCO[Si](C)(C)C(C)(C)C | C16H23Cl2NOSi
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | lithium bis(trimethylsilyl)amide | 42.6 mmol, 1 M, 42.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl 3-bromopropionate | 42.6 mmol, 7.71 g | BrCCC(=O)OCC | C5H9BrO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
product | ethyl 4-cyano-4-(3,4-dichlorophenyl)-6-(t-butyldimethylsilyloxy)hexanoate | C(#N)C(CCC(=O)OCC)(CCO[Si](C)(C)C(C)(C)C)C1=CC(=C(C=C1)Cl)Cl | C21H31Cl2NO3Si
